US07683067B2
2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-N-(tetrahydrofuran-2-ylmethyl)-1H-indole-5-carboxamide hydrochloride
Starting materials: methyl 2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxylate and tetrahydrofurfurylamine, but heated at reflux for 2 h. The cooled mixture was poured into a saturated NaHCO3 solution and concentrated in vacuo. The residue was suspended in methanol/dichloromethane, (1:1), silica gel (˜2 g) was added and the mixture was re-concentrated in vacuo. The resulting residue was purified on a silica gel column using dichloromethane/methanol, (100:1 to 25:2 and 1% ammonia solution in water (25%)), as the eluent to give the base. Yield: 27%: 1H NMR (DMSO-d6, 300 MHz) δ 14.75 (br s, 1H), 11.37 (br s, 1H), 10.69 (s, 1H), 8.50 (t, J=5.51 Hz, 1H), 8.22 (s, 1H), 8.06 (d, J=9.2 Hz, 1H), 7.99 (s, 1H), 7.82 (d, J=9.2 Hz, 1H), 7.54 (d, J=8.1 Hz, 1H), 6.93 (d, J=8.1 Hz, 1H), 4.25 (s, 2H), 4.02-3.60 (m, 6H), 3.44-3.22 (m, 4H), 3.20-3.03 (m, 2H), 1.95-1.78 (m, 4H), 1.70-1.55 (m, 1H); MS (ES) m/z 437 (M++1). The base was transferred to the hydrochloride.

reactant | methyl 2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxylate | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)OC | C20H21N3O4
reactant | tetrahydrofurfurylamine | C(C1CCCO1)N | C5H11NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | hydrochloride | Cl | ClH
product | 2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-N-(tetrahydrofuran-2-ylmethyl)-1H-indole-5-carboxamide hydrochloride | Yield: 27% | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)NCC1OCCC1 | InChI=1S/C24H28N4O4.ClH/c29-23(26-14-18-2-1-9-32-18)17-4-6-20-19(12-17)22(24(30)27-20)21-5-3-16(13-25-21)15-28-7-10-31-11-8-28;/h3-6,12-13,18,27,30H,1-2,7-11,14-15H2,(H,26,29);1H
